US04918203
Using the procedure established in Example 1, the reactor was charged with p-fluoroanisole (31.5 grams), acrylic acid (27 grams) and phenothiazine (0.02 grams) before being sealed, evacuated, and cooled to -78° C. The anhydrous hydrogen fluoride (110 grams) was vacuum transferred into the reactor and the mixture warmed to 40° C. for one hour then 100° C. for 4.5 hours. The excess hydrogen fluoride was then vented and the reactor cooled to 5° C. before being opened and the contents washed with D.I. water. Analysis by HPLC indicated the presence of para-fluoroanisole and 6-Fluoro-4-Chromanone. The para-fluoroanisole was removed by distillation and the desired 6-Fluoro-4-Chromanone isolated by extraction and characterized.

reactant | p-fluoroanisole | 31.5 grams | FC1=CC=C(C=C1)OC | C7H7FO
reactant | acrylic acid | 27 grams | C(C=C)(=O)O | C3H4O2
reactant | phenothiazine | 0.02 grams | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
product | 6-Fluoro-4-Chromanone | FC=1C=C2C(CCOC2=CC1)=O | C9H7FO2
